US05256650
First, 2.81 g of 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine was suspended in 60 ml of ethanol, then 3.2 g of (R)-(+)-2-amino-3-phenyl-1-propanol was added with stirring. After 48 hours the solvent was removed under vacuum and the oil was flash chromatographed (2-5-7% MeOH/CHCl3) to yield 3.80 g of (R)-β-[(1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol (95%).

reactant | 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine | 2.81 g | C1(=CC=CC=C1)N1N=CC=2C1=NC(=NC2Cl)Cl | C11H6Cl2N4
reactant | (R)-(+)-2-amino-3-phenyl-1-propanol | 3.2 g | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (R)-β-[(1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol | 3.80 g, 95% | C1(=CC=CC=C1)N1N=CC=2C1=NC(=NC2N[C@@H](CO)CC2=CC=CC=C2)Cl | C20H18ClN5O
